US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (225 mg, 0.67 mmol), potassium carbonate (106 mg, 0.77 mmol) and 6-hydroxyquinoline (112 mg, 0.77 mmol) in DMF (7.5 ml) was stirred at 100° C. for 5 hours and allowed to cool to ambient temperature. The reaction mixture was treated with 1M aqueous sodium hydroxide solution (40 ml) and stirred at ambient temperature for a few minutes. The crude solid was collected by filtration and washed with water. The resultant solid was dissolved in dichloromethane (2 ml) and filtered through phase separating paper. The filtrate was evaporated under vacuum and the residue was triturated with ether, collected by filtration and dried to give 6-methoxy-7-(3-morpholinopropoxy)-4-(quinolin-6-yloxy)quinazoline (163 mg, 55%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.67 mmol, 225 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | potassium carbonate | 0.77 mmol, 106 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-hydroxyquinoline | 0.77 mmol, 112 mg | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | sodium hydroxide | 1M, 40 ml | [OH-].[Na+]
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(3-morpholinopropoxy)-4-(quinolin-6-yloxy)quinazoline | 163 mg, 55% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)OC=1C=C2C=CC=NC2=CC1 | C25H26N4O4
